US06610711B2
3-Cyclopentyl-1-iodopropane
To a solution of 3-cyclopentylpropyl 4-bromobenzenesulfonate (Preparation 12, 1.0 g, 2.85 mmol) in acetone (30 ml) was added sodium iodide (1.0 g, 6.67 mmol) and the reaction mixture was left to stir at room temperature for 16 h. The resulting precipitate was filtered and the filtrate was diluted with water (100 ml) and extracted with dichloromethane (100 ml). The extract was washed with brine (100 ml), dried (MgSO4) and concentrated in vacuo to give the title compound as a light pink oil (0.60 g, 90%).

reactant | 3-cyclopentylpropyl 4-bromobenzenesulfonate | 2.85 mmol, 1.0 g | BrC1=CC=C(C=C1)S(=O)(=O)OCCCC1CCCC1 | C14H19BrO3S
reactant | sodium iodide | 6.67 mmol, 1.0 g | [I-].[Na+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 3-Cyclopentyl-1-iodopropane | 0.60 g, 90% | C1(CCCC1)CCCI | C8H15I
